US08580832B2
To a mixture of 4-fluoro-benzaldehyde (1.5 g, 12.08 mmol) and 2-isopropyl-phenol (1.64 g, 12.08 mmol) in anhydrous N,N-dimethyl acetamide (20 mL) was added granulated potassium carbonate (3.7 g, 26.58 mmol). The reaction mixture was stirred at 150° C. for 18 hours and was partitioned between ethyl acetate and brine. The ethyl acetate layer was washed with saturated aqueous hydrogenocarbonate solution, brine, dried over Na2SO4, filtered, and the solvent evaporated in vacuo to yield a crude oil. The crude oil was purified via flash chromatography (15% ethyl acetate in n-heptane) to yield 4-(2-Isopropyl-phenoxy)-benzaldehyde as a gum (2.25 g, 77%).

reactant | 4-fluoro-benzaldehyde | 12.08 mmol, 1.5 g | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 2-isopropyl-phenol | 12.08 mmol, 1.64 g | C(C)(C)C1=C(C=CC=C1)O | C9H12O
reactant | potassium carbonate | 26.58 mmol, 3.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethyl acetamide | 20 mL | CN(C(C)=O)C | C4H9NO
product | 4-(2-Isopropyl-phenoxy)-benzaldehyde | 2.25 g, 77% | C(C)(C)C1=C(OC2=CC=C(C=O)C=C2)C=CC=C1 | C16H16O2
